US03972892
50 g (0.42 mole) of thionyl chloride were slowly added dropwise at room temperature to a solution of 106 g (0.39 mole) of 1-hydroxy-2-(2-methyl-4-chlorophenoxy)-4,4-dimethylpentan-3-one in 400 ml of methylene chloride, while stirring and using reflux cooling, and the mixture was stirred at room temperature overnight. It was then distilled under reduced pressure. 93 g (82% of theory) of 1-chloro-2-(2-methyl-4-chlorophenoxy)-4,4-dimethyl-pentan-3-one of boiling point 113°-117°C/0.2 mm were obtained.

reactant | thionyl chloride | 0.42 mole, 50 g | S(=O)(Cl)Cl | Cl2OS
reactant | 1-hydroxy-2-(2-methyl-4-chlorophenoxy)-4,4-dimethylpentan-3-one | 0.39 mole, 106 g | OCC(C(C(C)(C)C)=O)OC1=C(C=C(C=C1)Cl)C | C14H19ClO3
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
product | 1-chloro-2-(2-methyl-4-chlorophenoxy)-4,4-dimethyl-pentan-3-one | 93 g, 82% | ClCC(C(C(C)(C)C)=O)OC1=C(C=C(C=C1)Cl)C | C14H18Cl2O2
